US06200999B1
Ethyl 2-Acetamido-3-[3-ethoxy-5-(1-trityl-1H-1,2,4-triazol-3-yl)isoxazol-4-yl]-2-(ethoxycarbonyl)propionate
A mixture of diethyl acetamidomalonate (1.3 g, 6.0 mmol) and potassium tert-butoxide (0.73 g, 6.5 mmol) in N-methylpyrrolidone (30 mL) was stirred at room temperature for 30 min. 3-[4-(Bromomethyl)-3-ethoxyisoxazol-5-yl]-1-trityl-1H-1,2,4-triazole (2.8 g, 5.4 mmol) in N-methylpyrrolidone (20 mL) was added (temp 22-28° C.) and the resulting mixture was stirred at room temperature for 2 h. The reaction mixture was poured onto an ice/water mixture (250 mL) and the aqueous phase was extracted with EtOAc (3×250 mL). The organic extracts were washed with an aqueous solution of potassium tert-butoxide and brine, dried (Na2SO4) and concentrated in vacuo. Flash chromatography (silica gel, eluent: EtOAc/heptane/triethylamine=50:50:2) gave the title compound (2.2 g, 62%): mp 145-149° C.

reactant | diethyl acetamidomalonate | 6.0 mmol, 1.3 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | potassium tert-butoxide | 6.5 mmol, 0.73 g | CC(C)([O-])C.[K+]
reactant | 3-[4-(Bromomethyl)-3-ethoxyisoxazol-5-yl]-1-trityl-1H-1,2,4-triazole | 5.4 mmol, 2.8 g | BrCC=1C(=NOC1C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OCC | C27H23BrN4O2
solvent | N-methylpyrrolidone | 30 mL | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | Ethyl 2-Acetamido-3-[3-ethoxy-5-(1-trityl-1H-1,2,4-triazol-3-yl)isoxazol-4-yl]-2-(ethoxycarbonyl)propionate | 2.2 g, 62% | C(C)(=O)NC(C(=O)OCC)(CC=1C(=NOC1C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OCC)C(=O)OCC | C36H37N5O7
